US04259329
17-Cyclopropylmethyl-3-hydroxy-6-methylene-morphinan (TR-5609)
Reaction of 17-cyclopropylmethyl-3-hydroxy-morphinan-6-one (1.58 g, 5 mmole) with methylenetriphenylphosphorane (20 mmole) in dimethyl sulfoxide gave a crude residue which was chromatographed using 10:1 chloroform-methanol containing 1% concentrated ammonium hydroxide. Pure fractions were pooled to give 909 mg (58%) of TR-5609 which crystallized from ethanol to give 532 mg of analytically pure TR-5609, mp 220°-223°.

reactant | 17-cyclopropylmethyl-3-hydroxy-morphinan-6-one | 5 mmole, 1.58 g | C1(CC1)CN1[C@H]2[C@@H]3CCC(C[C@@]3(C=3C=C(C=CC3C2)O)CC1)=O | C20H25NO2
reactant | methylenetriphenylphosphorane | 20 mmole | C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H17P
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
product | 17-Cyclopropylmethyl-3-hydroxy-6-methylene-morphinan | C1(CC1)CN1[C@H]2[C@@H]3CCC(C[C@@]3(C=3C=C(C=CC3C2)O)CC1)=C | C21H27NO
